US05977105
d) (2R)-1-(3'-Hydroxymethylbiphenyl-4-yloxy)-4-(3-pyridyl)-2-butanol
Prepared according to the method described in Example 26e) from (2R)-2-(tert-butyldimethylsilyloxy)-4-(3-pyridyl)-1-butyl para-toluenesulfonate (0.68 g), sodium hydride (60%, 0.073 g) and 3'-hydroxymethylbiphenyl-4-ol (0.39 g) in N,N-dimethylformamide (10 ml). The adduct was deprotected by dissolving in tetrahydrofuran (10 ml) to which tetrabutylammonium fluoride (0.93 g) was added. The reaction was stirred at ambient temperature for 1 hour, poured into brine and extracted with ethyl acetate. The combined organic extracts were dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by column chromatography over silica eluting with ethyl acetate to give the title compound (0.2 g) as a white solid.

reactant | (2R)-2-(tert-butyldimethylsilyloxy)-4-(3-pyridyl)-1-butyl para-toluenesulfonate | 0.68 g | C1(=CC=C(C=C1)S(=O)(=O)OC[C@@H](CCC=1C=NC=CC1)O[Si](C)(C)C(C)(C)C)C | C22H33NO4SSi
reactant | sodium hydride | 0.073 g | [H-].[Na+]
reactant | 3'-hydroxymethylbiphenyl-4-ol | 0.39 g | OCC=1C=C(C=CC1)C1=CC=C(C=C1)O | C13H12O2
reactant | tetrabutylammonium fluoride | 0.93 g | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
product | (2R)-1-(3'-Hydroxymethylbiphenyl-4-yloxy)-4-(3-pyridyl)-2-butanol | 0.2 g | OCC=1C=C(C=CC1)C1=CC=C(C=C1)OC[C@@H](CCC=1C=NC=CC1)O | C22H23NO3
